US08314098B2
(Step 1); Synthesis of 5,7-dichloro-2-phenyl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in acetonitrile (20 mL), 3-amino-5-phenyl-pyrazole (1.00 g, 6.28 mM) in an argon gas atmosphere, malonyl chloride (672 μL, 6.91 mM) was added to the resulting solution with ice-cooling and the mixture was stirred for 2 hours. To this reaction liquid, there was further added malonyl chloride (210 μL, 2.15 mM) followed by stirring the mixture for one hour. This reaction liquid was diluted with water and then extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate and the solvent was then distilled off. After the addition of phosphoryl chloride (10 mL) to the resulting solid with ice-cooling, the resulting suspension was stirred for 4 hours, while refluxing the same with heating. The phosphoryl chloride was distilled off from the reaction liquid, the residue thus obtained was diluted with water and then extracted with methylene chloride. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and then the resulting residue was purified by the silica gel column chromatography (ethyl acetate/hexane=1:10) to thus give the title compound (168 mg, yield: 10%).

reactant | 3-amino-5-phenyl-pyrazole | 6.28 mM, 1.00 g | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
reactant | malonyl chloride | 6.91 mM, 672 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | malonyl chloride | 2.15 mM, 210 μL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5,7-dichloro-2-phenyl-pyrazolo[1,5-a]pyrimidine | 168 mg, yield: 10% | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=CC=CC=C2 | C12H7Cl2N3
